US06172057B2
2-(4-Methoxy-phenylsulfanyl)-butyric acid ethyl ester was prepared according to the general method as outlined in example 9. Starting from ethyl 2-bromobutyrate (10.71 g, 55 mmol) and 4-methoxythiophenol (7 g, 50 mmol), 5.19 g (40%); clear oil; MS: 255.2 (M+H)+.

reactant | ethyl 2-bromobutyrate | 55 mmol, 10.71 g | BrC(C(=O)OCC)CC | C6H11BrO2
reactant | 4-methoxythiophenol | 50 mmol, 7 g | COC1=CC=C(C=C1)S | C7H8OS
product | 2-(4-Methoxy-phenylsulfanyl)-butyric acid ethyl ester | C(C)OC(C(CC)SC1=CC=C(C=C1)OC)=O | C13H18O3S
